US08487117B2
Preparation of methyl 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylate
A mixture of methyl 5-bromo-4-methyl-1H-pyrrole-3-carboxylate (0.44 g, 2.0 mmol), [4-chloro-2-(trifluoromethyl)phenyl]boronic acid (0.90 g, 4.0 mmol), Na2CO3 (0.64 g, 6.0 mmol) and palladium tetrakis(triphenylphosphine) (0.12 g, 0.10 mmol) in toluene/water (9:1, 10 ml) was stirred at 110° C. for 2.0 h under N2. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The mixture was washed with water and brine, then dried over sodium sulfate and concentrated on a rotary evaporator. The resulting residue was purified by silica-gel column chromatography (dichloromethane) to give the title compound (0.41 g, 65%) as a pale yellow solid.

reactant | methyl 5-bromo-4-methyl-1H-pyrrole-3-carboxylate | 2.0 mmol, 0.44 g | BrC1=C(C(=CN1)C(=O)OC)C | C7H8BrNO2
reactant | [4-chloro-2-(trifluoromethyl)phenyl]boronic acid | 4.0 mmol, 0.90 g | ClC1=CC(=C(C=C1)B(O)O)C(F)(F)F | C7H5BClF3O2
reactant | Na2CO3 | 6.0 mmol, 0.64 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene water | 10 ml | C1(=CC=CC=C1)C.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium tetrakis(triphenylphosphine) | 0.10 mmol, 0.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | methyl 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylate | 0.41 g, 65% | ClC1=CC(=C(C=C1)C1=C(C(=CN1)C(=O)OC)C)C(F)(F)F | C14H11ClF3NO2
